US06548495B2
5-Ethoxy-2-nitro-4-trifluoromethyl-phenylamine
The title compound was prepared from 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7] (7.06 g, 29.3 mmol) and KOH (4.26 g, 64.6 mmol) in EtOH (30 mL) and DMSO (60 mL) according to the general procedure E. Obtained as a yellow solid (4.20 g).

reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 29.3 mmol, 7.06 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | KOH | 64.6 mmol, 4.26 g | [OH-].[K+]
reactant | EtOH | 30 mL | CCO | C2H6O
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 5-Ethoxy-2-nitro-4-trifluoromethyl-phenylamine | C(C)OC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C9H9F3N2O3
